US04402958
A solution of 5.4 g. of phenylglyoxal hydrate in 25 ml. water is treated with 50 ml. of aqueous sodium bisulfite (density 1.34) at 25° C. for 45 min. A solution of 3.9 g. of aminomalonamide in 39 ml. of water is added and the reaction mixture is heated at 100° C. for 2.5 hr. The resultant yellow precipitate which forms is isolated by filtration, washed with water, dried and recrystallized from ethanol to afford 3-hydroxy-5-phenylpyrazine-2-carboxamide. This product is hydrolyzed with saturated ethanolic sodium hydroxide for 16 hrs. at 150° C. to afford 3-hydroxy-5-phenylpyrazine-2-carboxylic acid. This product is refluxed with 30 ml. of carbitolacetate for 15 min. then cooled to 250° C. and petroleum ether (bp 68° C.) added to precipitate the title compound.

reactant | phenylglyoxal hydrate | O.C1(=CC=CC=C1)C(=O)C=O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | aminomalonamide | NC(C(=O)N)C(=O)N | C3H7N3O2
solvent | water | O | H2O
product | 3-hydroxy-5-phenylpyrazine-2-carboxamide | OC=1C(=NC=C(N1)C1=CC=CC=C1)C(=O)N | C11H9N3O2
